US04634710
28.1 g of 4-methoxy-5-methyl-2-pyridylmethanol, dissolved in 180 ml of methylene chloride, were added dropwise at 0° to 17 ml of thionyl chloride in 360 ml of methylene chloride. After stirring at room temperature for 16 hours 1400 ml of ether were added dropwise thereto while cooling and the mixture was stirred at room temperature for a further 2 hours. The separated crystals were filtered off under suction and washed with ether. There was obtained 2-(chloromethyl)-4-methoxy-5-methylpyridine hydrochloride of melting point 149°-151°.

reactant | 4-methoxy-5-methyl-2-pyridylmethanol | 28.1 g | COC1=CC(=NC=C1C)CO | C8H11NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ether | 1400 ml | CCOCC | C4H10O
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 360 ml | C(Cl)Cl | CH2Cl2
product | 2-(chloromethyl)-4-methoxy-5-methylpyridine hydrochloride | Cl.ClCC1=NC=C(C(=C1)OC)C | InChI=1S/C8H10ClNO.ClH/c1-6-5-10-7(4-9)3-8(6)11-2;/h3,5H,4H2,1-2H3;1H
